US04109088
A solution of 2.7 g. of phenylmagnesium bromide in 30 ml. of tetrahydrofuran was added dropwise to a mixture of 3.17 g, of 4-isopropyl-2-(3-methyl-1-oxo-5-indanyloxymethyl)-5-oxomorpholine and 200 ml. of tetrahydrofuran with stirring at room temperature and the mixture was further stirred for 30 minutes. Then, adding a small amount of water to the reaction mixture, tetrahydrofuran was distilled off from the reaction mixture under reduced pressure. To the residue formed were added 100 ml. of ethyl acetate and 100 ml. of water to dissolve the residue therein and the ethyl acetate layer formed was recovered and washed twice each with 50 ml. of water and then with 50 ml. of saturated sodium chloride aqueous solution. Then, ethyl acetate was distilled off and the residue formed was adsobed on a silica gel column prepared from 150 ml of silica gel. in chloroform. The residue adsorbed was then eluted with ethyl acetate and after removing the first 10 ml. of the ethyl acetate eluate emerging from the column, 300 ml. of the ethyl acetate eluate thereafter was collected and dried to provide 3.25 g. (yield 82.3%) of oily 2-(1-hydroxy-3-methyl-1-phenyl-5-indanyloxymethyl)-4-isopropyl-5-oxomorpholine.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-isopropyl-2-(3-methyl-1-oxo-5-indanyloxymethyl)-5-oxomorpholine | C(C)(C)N1CC(OCC1=O)C(=O)OC=1C=C2C(CCC2=CC1)C | C18H23NO4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(1-hydroxy-3-methyl-1-phenyl-5-indanyloxymethyl)-4-isopropyl-5-oxomorpholine | yield 82.3% | OC(C1=CC=CC=C1)(C1CN(C(CO1)=O)C(C)C)OC=1C=C2C(CCC2=CC1)C | C24H29NO4
